US08975415B2
A mixture of 3-bromo-2-fluoro-5-methylpyridine (202 mg, 1.06 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (300 mg, 1.17 mmol), potassium acetate (208 mg, 2.12 mmol) and PdCl2(PPh3)2 (37 mg, 0.053 mmol) in dioxane (4 mL) was stirred for 3 hours at 100° C. To the mixture was added di-tert-butyl (6′-bromotrispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-2″-yl)imidodicarbonate (300 mg, 0.531 mmol), sodium carbonate (225 mg, 2.12 mmol) and H2O (1 mL), and the mixture was stirred for 1.5 hours at 100° C. The mixture was treated with charcoal, and filtered off. The filtrate was partitioned between EtOAc and water. The organic layer was washed with brine, dried over MgSO4, filtered, and the filtrate was evaporated to give a pale brown oil. The oil was dissolved in toluene (5 mL) and to the mixture was added silicagel (neutral; 600 mg). The mixture was refluxed for 1 hour. The solvent was evaporated off. Silicagel column chromatography (CHCl3-EtOH, linear gradient of EtOH from 0 to 20%) afforded a solid. The solid was triturated in Et2O and collected by filtration, washed with Et2O and dried in vacuo at 70° C. to give 6′-(2-fluoro-5-methylpyridin-3-yl)trispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-2″-amine (130 mg).

reactant | 3-bromo-2-fluoro-5-methylpyridine | 1.06 mmol, 202 mg | BrC=1C(=NC=C(C1)C)F | C6H5BrFN
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 1.17 mmol, 300 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 2.12 mmol, 208 mg | C(C)(=O)[O-].[K+]
reactant | di-tert-butyl (6′-bromotrispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-2″-yl)imidodicarbonate | 0.531 mmol, 300 mg | BrC=1C=C2C(=CC1)OC1(CCC1)C1(COC1)C21N=C(OC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C26H33BrN2O7
reactant | sodium carbonate | 2.12 mmol, 225 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | charcoal | C | CH4
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | PdCl2(PPh3)2 | 0.053 mmol, 37 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | H2O | 1 mL | O | H2O
product | 6′-(2-fluoro-5-methylpyridin-3-yl)trispiro[cyclobutane-1,2′-chromene-4′,4″-[1,3]oxazole-3′,3′″-oxetan]-2″-amine | 130 mg | FC1=NC=C(C=C1C=1C=C2C(=CC1)OC1(CCC1)C1(COC1)C21N=C(OC1)N)C | C22H22FN3O3
